US06291530B1
A solution of [5-(2-diethycarbamoyl-1-methylvinyl)-2-(1-phenylethoxy)-phenoxy]-acetic acid (300 mg, 0.97 mmol), 4-dimethylaminopyridine (12 mg, 0.097 mmol) and isopropanol (117 mg, 1.95 mmol) in methylene chloride (30 mL) is cooled to 0° C., and 1-(3-dimethylaminopropyl)-3-etbylcarbodiimide.HCl (205 mg, 1.07 mmol) is added in one portion. The mixture is then allowed to stir at room temperature for 18 hours. After washing with water (50 ml), the organic layer is washed with saturated NaHCO3 (50 mL) and brine (50 mL), dried over Na2SO4 and concentrated in vacuo. Chromatography (silica, 1:1 EtOAc/hexane) yields isopropyl (E)-[5-(2-diethylcarbamoyl-1-methylvinyl)-2-(1-phenylethoxy)-phenoxy]-acetate MS: 454 (M++1), 350 (M+-PhCHCH3+).

reactant | [5-(2-diethycarbamoyl-1-methylvinyl)-2-(1-phenylethoxy)-phenoxy]-acetic acid | 0.97 mmol, 300 mg | C(C)N(C(=O)C=C(C)C=1C=CC(=C(OCC(=O)O)C1)OC(C)C1=CC=CC=C1)CC | C24H29NO5
reactant | isopropanol | 1.95 mmol, 117 mg | C(C)(C)O | C3H8O
reactant | HCl | 1.07 mmol, 205 mg | Cl | ClH
catalyst | 4-dimethylaminopyridine | 0.097 mmol, 12 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | isopropyl (E)-[5-(2-diethylcarbamoyl-1-methylvinyl)-2-(1-phenylethoxy)-phenoxy]-acetate | C(C)N(C(=O)/C=C(\C)/C=1C=CC(=C(OCC(=O)OC(C)C)C1)OC(C)C1=CC=CC=C1)CC | C27H35NO5
